US06004977
2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-4-yl dimethylcarbamate
To a mixture of 2,3-dihydro-2-(4-pyridinylamino)-1H-isoindol-4-ol (1.20 g), triethylamine (1.18 g) and chloroform (35 ml), was added dimethylcarbamyl chloride (0.68 g) with stirring, at ambient temperature, under nitrogen. The reaction mixture was heated under reflux for 3 hrs, poured into dilute sodium bicarbonate solution (100 ml), and the layers were separated. The aqueous phase was extracted with chloroform, and the combined organic extracts were dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated. The residue was chromatographed on silica, eluting with 10-15% methanol/dichloromethane. The appropriate fractions were collected and concentrated to give 953 mg (60%) of product. Recrystallization from dichloromethane-heptane gave the analytical sample, mp 183-185° C.

reactant | 2,3-dihydro-2-(4-pyridinylamino)-1H-isoindol-4-ol | 1.20 g | N1=CC=C(C=C1)NN1CC=2C=CC=C(C2C1)O | C13H13N3O
reactant | triethylamine | 1.18 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 0.68 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-4-yl dimethylcarbamate | 953 mg, 60% | CN(C(OC1=C2CN(CC2=CC=C1)NC1=CC=NC=C1)=O)C | C16H18N4O2
